US05302724
Preparation of N-[[(4-chlorophenyl)amino]carbonyl]-2,5-dimethyl-3-thiophenesulfonamide
The procedure of Example 4B was followed with 2,5-dimethyl-3-thiophenesulfonamide (1.73 g, 9.06 mmole), acetone (10 ml), 1N NaOH (9.1 ml), 4-chlorophenyl isocyanate (1.39 g, 9.0 mmole), 1N HCl (9.1 ml). The aqueous layer was extracted with two 100 ml aliquots of ethyl acetate, which were combined and washed with 50 ml of water. The organic layer was then dried over Na2SO4. The solvent was removed and the residue chromatographed using a mixture of 4% methanol/methylene chloride as the eluent over a 50 mm silica gel column. The solvent was removed to provide the named product.

reactant | 2,5-dimethyl-3-thiophenesulfonamide | 9.06 mmole, 1.73 g | CC=1SC(=CC1S(=O)(=O)N)C | C6H9NO2S2
reactant | NaOH | 1N, 9.1 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 9.0 mmole, 1.39 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | HCl | 1N, 9.1 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-[[(4-chlorophenyl)amino]carbonyl]-2,5-dimethyl-3-thiophenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=C(SC(=C1)C)C | C13H13ClN2O3S2
